US06262069B1
DEAD (diethyl azadicarboxylate) (0.59 ml) was added to a mixture of Boc-Hyp-OBn (1.1 g), triphenylphosphine (0.9 g) and phenol (0.32 g) in THF 10 ml over 30 min. The mixture was stirred overnight and triphenylphosphine (0.45 g), phenol (0.16 g) and DEAD (0.3 ml) were added and the mixture stirred overnight before concentration. The residue was taken up in ethyl acetate and washed with 2M sodium hydroxide, saturated sodium bicarbonate, dried (MgSO4) and evaporated. Flash chromatography (SiO2 hexane then 20% ethylacetate in hexane) gave Boc-cis-4-phenoxyproline benzyl ester 496 mg.

reactant | DEAD | 0.59 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | Boc-Hyp-OBn | 1.1 g | N1([C@H](C(=O)OCC2=CC=CC=C2)C[C@@H](O)C1)C(=O)OC(C)(C)C | C17H23NO5
reactant | triphenylphosphine | 0.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 0.32 g | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 0.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 0.16 g | C1(=CC=CC=C1)O | C6H6O
reactant | DEAD | 0.3 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Boc-cis-4-phenoxyproline benzyl ester | 496 mg | C(C1=CC=CC=C1)OC([C@H]1N(C[C@H](C1)OC1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C23H27NO5
